US04241052
3.1 g of 1-(2-chloroethyl)-3-cyclopropylmethyl-3-(L-arabinopyranosyl)urea and 5 g of nitrogen tetroxide gas are treated in the same manner as described in Example 23-(2). 2.4 g of 1-(2-chloroethyl)-1-nitroso3-cyclopropylmethyl-3-(L-arabinopyranosyl)urea are thereby obtained as yellow caramel.

reactant | 1-(2-chloroethyl)-3-cyclopropylmethyl-3-(L-arabinopyranosyl)urea | 3.1 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)CO1)CC1CC1 | C12H21ClN2O5
reactant | nitrogen tetroxide | 5 g | [N+](=O)([N+](=O)[O-])[O-] | N2O4
product | 1-(2-chloroethyl)-1-nitroso3-cyclopropylmethyl-3-(L-arabinopyranosyl)urea | 2.4 g | ClCCN(C(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)CO1)CC1CC1)N=O | C12H20ClN3O6
